US08981085B2
(R)-tert-butyl 1-(5-bromo-3-propionamido-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (0.150 g, 0.322 mmol) was placed in DCM (3 mL) at room temperature. TFA (1 mL) was then added. The reaction was stirred at room temperature for 1 hour and concentrated to dryness. The resulting residue was then purified by reverse phase HPLC (0-50% ACN in water). The resulting product was next dissolved in minimal DCM (with MeOH to aid solubility) and added to a stirring solution of 1M HCl in ether. The resulting solid was filtered, washed with ether and dried to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)propionamide hydrochloride (0.110 g, 77.9% yield). 1H NMR (400 MHz, D2O) δ 8.24 (s, 1H), 7.27 (s, 1H), 3.74-3.71 (m, 1H), 3.56-3.52 (m, 1H), 3.33-3.30 (m, 1H), 3.20-3.15 (m, 2H), 2.42-2.37 (q, 2H), 2.08-2.06 (m, 1H), 1.80-1.76 (m, 1H), 1.67-1.54 (m, 2H), 1.10-1.06 (t, 3H). LCMS (APCI+) m/z 366, 368 (M+H)+.

reactant | (R)-tert-butyl 1-(5-bromo-3-propionamido-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 0.322 mmol, 0.150 g | BrC=1C(=C2C(=NC1)NC=C2NC(CC)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C20H28BrN5O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)propionamide hydrochloride | 0.110 g, 77.9% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(CC)=O | InChI=1S/C15H20BrN5O.ClH/c1-2-12(22)20-11-7-19-15-13(11)14(10(16)6-18-15)21-5-3-4-9(17)8-21;/h6-7,9H,2-5,8,17H2,1H3,(H,18,19)(H,20,22);1H/t9-;/m1./s1
